US07470680B2
(S)-1,4-dibromo-7-(2-oxo-2-(4-(2-oxo-1,2,4,5-tetrahydrobenzo[d][1,3]diazepin-3-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-2-(1,4-Dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino [3,4-e]indazol-7-yl)acetic acid (52 mg, 0.104 mmol) was dissolved in N,N-dimethylformamide (1.5 mL). N,N-Diisopropylethylamine (70 μl, 0.402 mmol) was added to the mixture followed by TBTU (34.8 mg, 0.108 mmol). 3-(Piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one (35.4 mg, 0.144 mmol) was then added to the mixture. Reaction stirred at room temperature for 1 hour. Reaction was quenched with 50% acetonitrile-water. Material was purified by reverse phase prep HPLC (acetonitrile-water-trifluoroacetic acid). Acetonitrile was removed from the fractions by roto-vap. Remaining aqueous was made basic with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 67% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.92 (s, 1H) 8.51 (s, 1H) 7.48 (s, 1H) 6.98-7.08 (m, 3H) 6.76-6.86 (m, 1H) 5.58 (d, J=17.40 Hz, 1H) 5.39 (d, J=17.09 Hz, 1H) 4.49 (d, J=13.12 Hz, 1H) 4.26-4.42 (m, 2H) 4.10-4.24 (m, 1H) 3.90-4.09 (m, 2H) 3.33-3.41 (m, 2H) 3.19 (d, J=16.79 Hz, 1H) 3.05-3.15 (m, 1 H) 2.95-3.02 (m, 1H) 2.83-2.94 (m, 3H) 2.53-2.65 (m, 1H) 2.33-2.46 (m, 1H) 1.58-1.85 (m, 3H) 1.40-1.57 (m, 1H). High resolution MS m/e (M+H)+=725.0720.

reactant | (S)-2-(1,4-Dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino [3,4-e]indazol-7-yl)acetic acid | 0.104 mmol, 52 mg | BrC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)O)=O)CC(F)(F)F)Br | C15H12Br2F3N3O3
reactant | N,N-Diisopropylethylamine | 0.402 mmol, 70 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.108 mmol, 34.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(Piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one | 0.144 mmol, 35.4 mg | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (S)-1,4-dibromo-7-(2-oxo-2-(4-(2-oxo-1,2,4,5-tetrahydrobenzo[d][1,3]diazepin-3-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 67% yield | BrC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(N3CCC(CC3)N3C(NC1=C(CC3)C=CC=C1)=O)=O)=O)CC(F)(F)F)Br | C29H29Br2F3N6O3
